US09216980B2
Preparation of 3-(4-Bromophenyl)-3-hydroxypiperidine-1-carboxylic acid tert-butyl ester
n-Butyllithium (2.5 M in hexanes, 8.2 mL, 20.5 mmol) was added over 10 min to a solution of 1-bromo-4-iodobenzene (5.79 g, 20.5 mmol) in THF (100 mL) at −78° C. After 15 min, a solution of 1-boc-3-piperidone (3.71 g, 18.6 mmol) in THF (10 mL) was added and the resultant reaction mixture was left to stir at −78° C. for 1 h, then warmed to 0° C. and quenched by the addition of saturated aqueous ammonium chloride (50 mL). The mixture was allowed to warm to ambient temperature and partitioned between ethyl acetate (400 mL) and water (150 mL). The organic layer was separated, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The resultant residue was purified by flash chromatography (silica, 80 g column, ISCO, 0-100% ethyl acetate in cyclohexane) to afford the title compound as a colourless gum (3.69 g, 56%). 1H NMR (CDCl3, 300 MHz): 7.52-7.46 (m, 2H); 7.42-7.36 (m, 2H); 4.16-3.87 (m, 2H); 3.13 (d, J=13.7 Hz, 1H); 2.92-2.77 (m, 1H); 2.03-1.53 (m, 4H); 1.47 (s, 9H).

reactant | n-Butyllithium | 20.5 mmol, 2.5 M, 8.2 mL | C(CCC)[Li]
reactant | 1-bromo-4-iodobenzene | 20.5 mmol, 5.79 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | 1-boc-3-piperidone | 18.6 mmol, 3.71 g | C(=O)(OC(C)(C)C)N1CC(CCC1)=O | C10H17NO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(4-Bromophenyl)-3-hydroxypiperidine-1-carboxylic acid tert-butyl ester | 3.69 g, 56% | C(C)(C)(C)OC(=O)N1CC(CCC1)(O)C1=CC=C(C=C1)Br | C16H22BrNO3
